US08669266B2
(iii) 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 3.2 g 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester in 20 ml THF were added 6.7 ml aqueous NaOH (1 M) at 0° C. After 4 h the mixture was brought to pH 4 by using Amberlite IR-120 ion exchange resin. The reaction mixture was filtered and concentrated and the crude product obtained used in the next step without further purification. Yield: 2.78 g.

reactant | 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester | 3.2 g | C(C)OC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)Cl)C | C24H28ClN3O5
reactant | NaOH | 1 M, 6.7 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | ClC=1C=C2C(=CC(=NC2=CC1C)C(=O)O)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O | C22H24ClN3O5
